US07612114B2
4-Fluoro-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine
Synthesized from 5-fluoro-2-nitrophenyl trifluoromethanesulfonate and (6-methoxy-3,4-dihydronaphthalen-2-yl)trimethyltin according to an analogous synthetic method to Preparation Example 77, 3-(5-fluoro-2-nitrophenyl)-7-methoxy-1,2-dihydronaphthalene (396 mg) was used according to an analogous synthetic method to Example 30 to provide the title compound (286 mg).

reactant | 5-fluoro-2-nitrophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=CC(=C1)F)[N+](=O)[O-])(F)F | C7H3F4NO5S
reactant | (6-methoxy-3,4-dihydronaphthalen-2-yl)trimethyltin | COC=1C=C2CCC(=CC2=CC1)[Sn](C)(C)C
reactant | 3-(5-fluoro-2-nitrophenyl)-7-methoxy-1,2-dihydronaphthalene | 396 mg | FC=1C=CC(=C(C1)C=1CCC2=CC(=CC=C2C1)OC)[N+](=O)[O-] | C17H14FNO3
product | 4-Fluoro-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 286 mg | FC1=CC(=C(C=C1)N)C1CC2=CC=C(C=C2CC1)OC | C17H18FNO
